US06960614B2
(1-Hydroxymethyl-cyclopropyl)-methanol (4.08 g, 0.04 mol), N-hydroxyphthalimide (6.53 g, 0.04 mol) and triphenylphosphine (10.50 g, 0.04 mol) were combined in anhydrous tetrahydrofuran (100 mL) and stirred at 0° C. for 1.5 hours. Diethyl azodicarboxylate (6.97 g, 0.04 mol) was added at 0° C. and the reaction mixture was stirred at room temperature overnight. Repeated concentration of the reaction mixture from chloroform and filtration of the resulting precipitate (triphenylphosphine oxide) afforded the crude product which was further purified by silica gel chromatography. Elution with hexane/ethyl acetate (3:2) provided 2-(1-Hydroxymethyl-cyclopropylmethoxy)-isoindole-1,3-dione (5.63 g, 57% yield) as a white solid: 1H NMR (400 MHz; CDCl3) δ 7.82-7.85 (2H, m), 7.74-7.78 (2H, m), 4.19 (2H, s), 3.72 (2H, s), 0.63 (4H, s)

reactant | (1-Hydroxymethyl-cyclopropyl)-methanol | 0.04 mol, 4.08 g | OCC1(CC1)CO | C5H10O2
reactant | N-hydroxyphthalimide | 0.04 mol, 6.53 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | triphenylphosphine | 0.04 mol, 10.50 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diethyl azodicarboxylate | 0.04 mol, 6.97 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-(1-Hydroxymethyl-cyclopropylmethoxy)-isoindole-1,3-dione | 5.63 g, 57% yield | OCC1(CC1)CON1C(C2=CC=CC=C2C1=O)=O | C13H13NO4
